US05733905
N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-3-methylbenzo[b]thiophene-2-acetamide
To a stirred solution of 0.445 g of 3-methylbenzo[b]thiophene-2-acetyl chloride in 5 ml of methylene chloride is added 0.346 g of triethylamine at 0° C. After stirring for 3 minutes, 0.500 g of 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine is added and stirring continued for 72 hours at room temperature. An additional 0.445 g of 3-methylbenzo[b]thiophene-2-acetyl chloride, 0.346 g of triethylamine and 30 mg of dimethylaminopyridine is added and stirring continued for an additional 18 hours. The reaction mixture is diluted with 45 ml of methylene chloride and washed with water, 2N citric acid, 1M NaHCO3, and brine. The reaction mixture is dried with Na2 SO4, filtered and evaporated in vacuo to give a solid which is purified by flash chromatography using 1:1 ethyl acetate-hexane to give 0.320 g of the desired product as a yellow foam.

reactant | 3-methylbenzo[b]thiophene-2-acetyl chloride | 0.445 g | CC1=C(SC2=CC=CC=C12)CC(=O)Cl | C11H9ClOS
reactant | triethylamine | 0.346 g | C(C)N(CC)CC | C6H15N
reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.500 g | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
reactant | 3-methylbenzo[b]thiophene-2-acetyl chloride | 0.445 g | CC1=C(SC2=CC=CC=C12)CC(=O)Cl | C11H9ClOS
reactant | triethylamine | 0.346 g | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 30 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-3-methylbenzo[b]thiophene-2-acetamide | 0.320 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(CC1=C(C2=C(S1)C=CC=C2)C)=O | C30H25N3O2S
